US04581452
A mixture of α-trifluoromethylacrylic acid (700 mg; 5.0 mmoles) and 1,3-dimethylurea (419 mg; 4.8 mmoles) in DMF (5 ml) was cooled to 0° C., and then a solution of DCC (1.21 g; 5.9 mmoles) in DMF (3 ml) was added dropwise. The mixture was stirred at 0° C. for 1 hour. The precipitated solid was filtered off, and washed with ethyl acetate. The solvents were evaporated under reduced pressure from the combined filtrates. The residue was purified by a column chromatography on silica gel to give 566 mg (yield 57%) of 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil (OF-1).

reactant | α-trifluoromethylacrylic acid | 5.0 mmoles, 700 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | 1,3-dimethylurea | 4.8 mmoles, 419 mg | CNC(=O)NC | C3H8N2O
reactant | DCC | 5.9 mmoles, 1.21 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil | 566 mg, yield 57% | CN1C(=O)N(C(=O)C(C1)C(F)(F)F)C | C7H9F3N2O2
